US06096735
5-Cyanomethyl-1-(4-phenyl-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (1 g), ammonium chloride (0.4 g) and sodium azide (0.48 g) are suspended in dimethylformamide (10 ml), and the mixture is heated at 110-120° C. for 16 hours. To the mixture are added ammonium chloride (0.4 g) and sodium azide (0.48 g), and the mixture is heated for 16 hours. The mixture is evaporated to remove dimethylformamide, and the resultant is acidified with a 1 N hydrochloric acid. The mixture is extracted with chloroform, and the organic layer is washed with water, dried over magnesium sulfate, and concentrated. The residue is purified by silica gel column chromatography (solvent; dichloromethane→dichloromethane:methanol=20:1), and the resulting oily product is crystallized from diethyl ether to give 5-(5-tetrazolyl)methyl-1-(4-phenyl-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine (0.9 g) as white powder.

reactant | 5-Cyanomethyl-1-(4-phenyl-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 1 g | C(#N)CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)C2=CC=CC=C2)Cl)=O | C25H21ClN2O
reactant | ammonium chloride | 0.4 g | [Cl-].[NH4+]
reactant | sodium azide | 0.48 g | [N-]=[N+]=[N-].[Na+]
reactant | ammonium chloride | 0.4 g | [Cl-].[NH4+]
reactant | sodium azide | 0.48 g | [N-]=[N+]=[N-].[Na+]
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 5-(5-tetrazolyl)methyl-1-(4-phenyl-2-chlorobenzoyl)-2,3,4,5-tetrahydro-1H-benzazepine | 0.9 g | N1N=NN=C1CC1CCCN(C2=C1C=CC=C2)C(C2=C(C=C(C=C2)C2=CC=CC=C2)Cl)=O | C25H22ClN5O
